US07582629B2
4-[(2-Acetyl-1-benzofuran-5-yl)amino]-2-methyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide
The title compound was prepared from 4-chloro-2-methyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide and 1-(5-amino-1-benzofuran-2-yl)ethanone in a similar manner as described for e.g. Examples 9 and 13. 1H NMR (400 MHz, CD3CN): δ 7.89 (bs, 1H), 7.38-7.37 (m, 1H), 7.25 (d, 1H), 7.16-7.10 (m, 4H), 7.09-7.03 (m, 3H), 3.22 (s, 3H), 2.50 (s, 3H); Mass Spectrum: M+H+ 397.

reactant | 4-chloro-2-methyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide | ClC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)C)=O | C10H8ClNO3S
reactant | 1-(5-amino-1-benzofuran-2-yl)ethanone | NC=1C=CC2=C(C=C(O2)C(C)=O)C1 | C10H9NO2
product | 4-[(2-Acetyl-1-benzofuran-5-yl)amino]-2-methyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide | C(C)(=O)C=1OC2=C(C1)C=C(C=C2)NC=2C(N(S(C2C2=CC=CC=C2)(=O)=O)C)=O | C20H16N2O5S
